US07273879B2
Into 4 g of N,N-dimethylformamide was dissolved 218 mg of 4-pyridinemethanol, 96 mg of sodium hydride (60% in oil) was added thereto at room temperature. After stirring for 30 minutes, a solution of 334 mg of 5-chloro-3-methylthio-1,2,4-thiadiazole in 1 g of N,N-dimethylformamide was added dropwise into the mixture and the reaction mixture was stirred for 4 hours at room temperature. The reaction mixture was added to saturated sodium chloride aqueous solution, and extracted with t-butyl methyl ether. The organic layer was concentrated, and the residue obtained was subjected to silica gel column chromatography to give 260 mg of 5-(4-pyridylmethyloxy)-3-methylthio-1,2,4-thiadiazole (hereinafter, referred to as the present compound (34)).

reactant | 4-pyridinemethanol | 218 mg | N1=CC=C(C=C1)CO | C6H7NO
reactant | sodium hydride | 96 mg | [H-].[Na+]
reactant | 5-chloro-3-methylthio-1,2,4-thiadiazole | 334 mg | ClC1=NC(=NS1)SC | C3H3ClN2S2
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 1 g | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 4 g | CN(C=O)C | C3H7NO
product | 5-(4-pyridylmethyloxy)-3-methylthio-1,2,4-thiadiazole | 260 mg | N1=CC=C(C=C1)COC1=NC(=NS1)SC | C9H9N3OS2
